US08980911B2
A mixture of N-[3-(4-bromo-2,6-dichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide (108 mg, 0.23 mmol), pyrimidin-5-yl-boronic acid (42 mg, 0.34 mmol), potassium carbonate (95.22 mg, 0.69 mmol), water (0.5 mL) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (34.8 mg, 0.047 mmol) in 1,4 dioxane (3 mL) was heated overnight at 100° C. in a sealed vial. The reaction mixture was cooled to room temperature, diluted with water (10 mL) and extracted with ethyl acetate (2×50 mL). The combined organic layer was dried over anhydrous sodium sulphate and concentrated under vacuum. The resulting crude mass was purified by preparative thin layer chloromatography using 10% methanol in dichloromethane to afford N-{3-[2,6-dichloro-4-(pyrimidin-5-yl)benzoyl]-1H-pyrrolo[2,3-c]pyridin-7yl}cyclopropane carboxamide (15 mg, 14.01%).

reactant | N-[3-(4-bromo-2,6-dichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide | 0.23 mmol, 108 mg | BrC1=CC(=C(C(=O)C2=CNC3=C(N=CC=C32)NC(=O)C3CC3)C(=C1)Cl)Cl | C18H12BrCl2N3O2
reactant | pyrimidin-5-yl-boronic acid | 0.34 mmol, 42 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | potassium carbonate | 0.69 mmol, 95.22 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4 dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) | 0.047 mmol, 34.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.5 mL | O | H2O
product | N-{3-[2,6-dichloro-4-(pyrimidin-5-yl)benzoyl]-1H-pyrrolo[2,3-c]pyridin-7yl}cyclopropane carboxamide | 15 mg, 14.01% | ClC1=C(C(=O)C2=CNC3=C(N=CC=C32)NC(=O)C3CC3)C(=CC(=C1)C=1C=NC=NC1)Cl | C22H15Cl2N5O2
